US04486425
Meanwhile, 121 mg of pivaloyloxymethyl 7-amino-3-methoxymethyl-3-cephem-4-carboxylate and 141 mg of N,N-diethylaniline were dissolved in 5 ml of methylene chloride and stirred at -5° C. The resulting mixture was added dropwise to the mixture containing 2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetic acid prepared as described above. The reaction mixture was stirred for 15 minutes and then concentrated by evaporation under reduced pressure. To the residue were added 20 ml of ethyl acetate and 5 ml of water, and the ethyl acetate layer was separated, washed, in turn, with 5 ml of a saturated aqueous solution of sodium bicarbonate, 5 ml of a 5% w/v aqueous solution of hydrogen chloride and 5 ml of a saturated aqueous solution of sodium chloride, and finally dried over anhydrous magnesium sulphate. The drying agent was filtered off and the filtrate was concentrated by evaporation under reduced pressure. The resulting residue was subjected to column chromatography through 10 g of silica gel eluted with a 2:1 by volume mixture of ethyl acetate and hexane, to afford 55 mg of pivaloyloxymethyl 7-[2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylate.

reactant | pivaloyloxymethyl 7-amino-3-methoxymethyl-3-cephem-4-carboxylate | 121 mg | NC1[C@@H]2N(C(=C(CS2)COC)C(=O)OCOC(C(C)(C)C)=O)C1=O | C15H22N2O6S
reactant | N,N-diethylaniline | 141 mg | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | 2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetic acid | ClCC(=O)NC=1SC=C(N1)C(C(=O)O)=NOC | C8H8ClN3O4S
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | pivaloyloxymethyl 7-[2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylate | 55 mg | ClCC(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC)C(=O)OCOC(C(C)(C)C)=O)C1=O)=NOC | C23H28ClN5O9S2
